US06635771B2
4-[2-(1-benzhydryl-5-chloro-2-{2-[(2-naphthylsulfonyl)amino]ethyl}-1H-indol-3-yl)ethoxy]benzoic acid
To the methyl 4-{2-[2-(2-aminoethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]ethoxy}benzoate (Step 5, Example 1)was added 2-naphthalenesulfonyl chloride according to the procedure in Example 1 Step 7 to generate the product in 53% yield.

reactant | methyl 4-{2-[2-(2-aminoethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]ethoxy}benzoate | NCCC=1N(C2=CC=C(C=C2C1CCOC1=CC=C(C(=O)OC)C=C1)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1 | C33H31ClN2O3
reactant | 2-naphthalenesulfonyl chloride | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | 4-[2-(1-benzhydryl-5-chloro-2-{2-[(2-naphthylsulfonyl)amino]ethyl}-1H-indol-3-yl)ethoxy]benzoic acid | 53% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCOC1=CC=C(C(=O)O)C=C1)CCNS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C42H35ClN2O5S
